US04695654
To a solution of 1-phthalimido-4-p-toluenesulfonyl-7,7-difluoro-8-hydroxy-4-aza-octane (56.0 g, 120 mmoles) and dry pyridine (50 mL) in dry dichloromethane (400 mL), a solution of methanesulfonylchloride (14.4 g, 1.05 equivalents) in dichloromethane is added slowly at room temperature. After stirring overnight at room temperature, the mixture is washed with 1N HCl (500 mL), 10% aqueous NaHSO3 (250 mL), and water (250 mL). Drying (Na2SO4) and evaporation of the solvent yields an oil which solidifies under oil pump vacuum. Digestion with an acetone/cyclohexane mixture gives colorless crystals of 1-phthalimido-4-p-toluenesulfonyl-7,7-difluoro-8-methanesulfonyloxy-4-aza-octane.

reactant | 1-phthalimido-4-p-toluenesulfonyl-7,7-difluoro-8-hydroxy-4-aza-octane | 120 mmoles, 56.0 g | C1(C=2C(C(N1CCCN(CCC(CO)(F)F)S(=O)(=O)C1=CC=C(C=C1)C)=O)=CC=CC2)=O | C22H24F2N2O5S
reactant | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonylchloride | 14.4 g, 1.05 equivalents | CS(=O)(=O)Cl | CH3ClO2S
reactant | acetone cyclohexane | CC(=O)C.C1CCCCC1
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
product | 1-phthalimido-4-p-toluenesulfonyl-7,7-difluoro-8-methanesulfonyloxy-4-aza-octane | C1(C=2C(C(N1CCCN(CCC(COS(=O)(=O)C)(F)F)S(=O)(=O)C1=CC=C(C=C1)C)=O)=CC=CC2)=O | C23H26F2N2O7S2
